US06103905
To a 500 mL round bottom flask containing a solution of crude indole-3-carboxaldehyde (0.5 mol) in 300 mL of DCM was added 6.1 g (0.05 mol) of 4-dimethylaminopyridine. The reaction mixture was cooled to 0° C. and 600 mL of a solution of di-tert-butyldicarbonate (1.0 M in THF) was added slowly dropwise via an addition funnel. The reaction mixture was allowed to warm to room temperature for 6 h. The reaction mixture was quenched with 1.0 L of water and the organic layer separated. The organic layer was washed with 5% HCl (2×1.0 L) and sat. NaCl (1.0 L), dried (MgSO4), filtered, and concentrated in vacuo. The crude solid was purified by dissolving it in DCM (~1.0 L) and precipitating it by the addition of hexanes (~1.0 L) and filtering with a fritted funnel. The filter cake was washed with hexanes and dried in vacuo to give N-Boc-indole-3-carboxaldehyde (80-85% yield).

reactant | indole-3-carboxaldehyde | 0.5 mol | N1C=C(C2=CC=CC=C12)C=O | C9H7NO
reactant | di-tert-butyldicarbonate | 1.0 M | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | DCM | 300 mL | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.05 mol, 6.1 g | CN(C1=CC=NC=C1)C | C7H10N2
product | N-Boc-indole-3-carboxaldehyde | 80-85% yield | C(=O)(OC(C)(C)C)N1C=C(C2=CC=CC=C12)C=O | C14H15NO3
